US08211923B2
Diethyl {[[1-(5-chloro-1H-indole-2-carbonyl)-2,3-dihydro-1H-indol-5-yl]-(3,5-dichloro-phenylsulphonyl)-amino]-methyl}-phosphonate
50 mg 5-chloro-1H-indole-2-carboxylic acid are dissolved in 2 ml of thionyl chloride and heated to 80° C. for 1 hour. The solvent is eliminated in vacuo and the residue is twice combined with dichloromethane and this is again eliminated in vacuo. The residue is taken up in 5 ml dichloromethane and the solution is added dropwise to a mixture of 100 mg diethyl {[(3,5-dichloro-phenylsulphonyl)-(2,3-dihydro-1H-indol-5-yl)-amino]-methyl}-phosphonate and 60 mg potassium carbonate in 2 ml dimethylformamide. The mixture is stirred for 2 hours at ambient temperature, diluted with ethyl acetate and washed with 1 N HCl and saturated sodium chloride solution. After drying with magnesium sulphate the solvents are eliminated in vacuo and the residue is chromatographed on silica gel (dichloromethane/methanol 95:5 to 70:30).

reactant | 5-chloro-1H-indole-2-carboxylic acid | 50 mg | ClC=1C=C2C=C(NC2=CC1)C(=O)O | C9H6ClNO2
reactant | diethyl {[(3,5-dichloro-phenylsulphonyl)-(2,3-dihydro-1H-indol-5-yl)-amino]-methyl}-phosphonate | 100 mg | ClC=1C=C(C=C(C1)Cl)S(=O)(=O)N(C=1C=C2CCNC2=CC1)CP(OCC)(OCC)=O | C19H23Cl2N2O5PS
reactant | potassium carbonate | 60 mg | C([O-])([O-])=O.[K+].[K+]
solvent | thionyl chloride | 2 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Diethyl {[[1-(5-chloro-1H-indole-2-carbonyl)-2,3-dihydro-1H-indol-5-yl]-(3,5-dichloro-phenylsulphonyl)-amino]-methyl}-phosphonate | ClC=1C=C2C=C(NC2=CC1)C(=O)N1CCC2=CC(=CC=C12)N(S(=O)(=O)C1=CC(=CC(=C1)Cl)Cl)CP(OCC)(OCC)=O | C28H27Cl3N3O6PS
